US04061647
3.2 g of 2-bromo-3'-chloro-4'-methyl-5'-sulfamoyl-acetophenone were reacted according to the method described in Example 6 with 1.2 g of 1,3-dimethyl-thiourea to yield the 4-(3-chloro-4-methyl-5-sulfamoylpheny)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hyrobromide. M.p. 160° C (decomposition).

reactant | 2-bromo-3'-chloro-4'-methyl-5'-sulfamoyl-acetophenone | 3.2 g | BrCC(=O)C1=CC(=C(C(=C1)S(N)(=O)=O)C)Cl | C9H9BrClNO3S
reactant | 1,3-dimethyl-thiourea | 1.2 g | CNC(=S)NC | C3H8N2S
product | 4-(3-chloro-4-methyl-5-sulfamoylpheny)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hyrobromide | Br.ClC=1C=C(C=C(C1C)S(N)(=O)=O)C1(N(C(SC1)=NC)C)O | InChI=1S/C12H16ClN3O3S2.BrH/c1-7-9(13)4-8(5-10(7)21(14,18)19)12(17)6-20-11(15-2)16(12)3;/h4-5,17H,6H2,1-3H3,(H2,14,18,19);1H
